US07579368B2
Hydrochloric acid (42 mL, 168 mmol, 4 M in 1,4-dioxane) was added to a cooled solution of 1-tert-butyloxycarbonyl-4-(2-methanesulfonylethyl)piperazine (2.29 g, 7.8 mmol) in 1,4-dioxane (42 mL). The mixture was stirred at room temperature overnight then concentrated to give 1-(2-methanesulfonylethyl)piperazine bishydrochloride as a white solid (2.05 g).

reactant | Hydrochloric acid | 168 mmol, 4 M, 42 mL | Cl | ClH
reactant | 1-tert-butyloxycarbonyl-4-(2-methanesulfonylethyl)piperazine | 7.8 mmol, 2.29 g | C(C)(C)(C)OC(=O)N1CCN(CC1)CCS(=O)(=O)C | C12H24N2O4S
solvent | 1,4-dioxane | 42 mL | O1CCOCC1 | C4H8O2
product | 1-(2-methanesulfonylethyl)piperazine bishydrochloride | 2.05 g | Cl.Cl.CS(=O)(=O)CCN1CCNCC1 | InChI=1S/C7H16N2O2S.2ClH/c1-12(10,11)7-6-9-4-2-8-3-5-9;;/h8H,2-7H2,1H3;2*1H
